US06492377B1
7-amino-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-s-triazolo[1,5-a]pyrimidin-5-one
145.6 g of 7-amino-2-[(4-methoxybenzyloxy)methyl]-s-triazolo[1,5-a]pyrimidin-5-one is dissolved in 1500 ml of dimethylformamide and mixed with 76.8 g of potassium carbonate. After the addition of 45.2 ml of ethyl iodide the mixture is stirred for about 1.5 days at ambient temperature. For working up, the dimethylformamide is distilled off in vacuo and the residue remaining is taken up in 500 ml of water (distilled), 500 ml of saturated NaCl solution and 1000 ml of dichloromethane. After separation of the organic phase the aqueous phase remaining is extracted three more times with 200 ml of dichloromethane. The combined organic phases are dried over magnesium sulphate and then freed from solvent. About 180 g of a solid remain, which is used in the next step without further purification.

reactant | 7-amino-2-[(4-methoxybenzyloxy)methyl]-s-triazolo[1,5-a]pyrimidin-5-one | 145.6 g | NC1=CC(N=C2N1NC(=N2)COCC2=CC=C(C=C2)OC)=O | C14H15N5O3
reactant | potassium carbonate | 76.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 45.2 ml | C(C)I | C2H5I
solvent | dimethylformamide | 1500 ml | CN(C=O)C | C3H7NO
product | 7-amino-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-s-triazolo[1,5-a]pyrimidin-5-one | NC1=CC(N(C=2N1N=C(N2)COCC2=CC=C(C=C2)OC)CC)=O | C16H19N5O3
